US03989832
EXAMPLE 7- PREPARATION OF 3-(1-METHYL-5-NITRO-2-IMIDAZOLYL)-6-FORMYLAMINO-S-TRIAZOLO [4,3-b]PYRIDAZINE
100 mg. 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo [4,3-b]pyridazine were suspended in 1.3 ml. dimethyl formamide and, after the addition of 1.5 ml. of the mixed anhydride obtainable from formic acid and acetic anhydride, stirred at ambient temperature until no more starting material could be detected by thin layer chromatography. The almost clear solution thus obtained was, after filtration, evaporated in a vacuum and the residue brought to crystallization with ether. There were thus obtained 72 mg. (65 percent of theory) 3-(1-methyl-5-nitro-2-imidazolyl)-6-formylamino-s-triazolo[4,3-b]pyridazine in the form of yellowish crystals which melt, with decomposition, at 200° - 204° C.

reactant | 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo [4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N | C9H8N8O2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | C(=O)O | CH2O2
product | 3-(1-METHYL-5-NITRO-2-IMIDAZOLYL)-6-FORMYLAMINO-S-TRIAZOLO [4,3-b]PYRIDAZINE | CN1C(=NC=C1[N+](=O)[O-])C1=NN=C2N1N=C(C=C2)NC=O | C10H8N8O3
